US09260441B2
Step G: tert-Butyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate
To a solution of tert-butyl 4-(N-hydroxycarbamimidoyl)piperazine-1-carboxylate (771 mg, 3.16 mmol) in pyridine (8 mL) was added acetic anhydride (320 L, 3.42 mmol) and the reaction was heated to 80° C. for 3 h. The mixture was cooled to room temperature, poured into water and extracted with EtOAc. The organic layer was washed with water and brine, dried (Na2SO4) and concentrated under reduced pressure to yield 774 mg of a yellow solid. After purification by flash chromatography (silica, gradient of 0.5 to 3% methanol in dichloromethane) 509 mg of an off-white solid were obtained (1.897 mmol, 60%). MS (ESI) m/z=291.1 [M+Na]+.

reactant | tert-butyl 4-(N-hydroxycarbamimidoyl)piperazine-1-carboxylate | 3.16 mmol, 771 mg | ONC(=N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N4O3
reactant | acetic anhydride | 3.42 mmol, 320 L | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-(5-methyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate | 774 mg | CC1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H20N4O3
